// Generated for: spectre
// Generated on: Oct  4 11:55:29 2021
// Design library name: Device_Characteristics
// Design cell name: FastBias_pel
// Design view name: schematic
simulator lang=spectre
global 0
parameters IDS6=3e-07 VDS6=1.0 WF6=8e-06 L6=1e-06 NF6=10 IDS5=3e-07 \
    VDS5=0.3 WF5=1.5e-05 L5=1e-06 NF5=10 IDS4=3e-07 VDS4=0.5 WF4=5e-06 \
    L4=5e-07 NF4=10 IDS3=3e-07 VDS3=0.5 WF3=1e-05 L3=5e-07 NF3=10 \
    IDS2=3e-06 VDS2=0.5 WF2=1.5e-06 L2=5e-06 NF2=1 IDS1=3e-06 VDS1=0.5 \
    WF1=3e-06 L1=6e-06 NF1=1
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: Device_Characteristics
// Cell name: Bias_pel
// View name: schematic
subckt Bias_pel
parameters IDS VDS WF L NF
    I0 (D S) isource dc=IDS type=dc
    E0 (S G net9 D) vcvs gain=1000
    V1 (S 0) vsource dc=1.8 type=dc
    V0 (S net9) vsource dc=VDS type=dc
    M0 (D G S S) pel w=WF l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(WF)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(WF)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF)))/(NF) \
         nrs=2.7e-07/(WF) nrd=2.7e-07/(WF) m=(1)*(NF) par1=((1)*(NF))
ends Bias_pel
// End of subcircuit definition.

// Library name: Device_Characteristics
// Cell name: FastBias_pel
// View name: schematic
I5 Bias_pel IDS=IDS6 VDS=VDS6 WF=WF6 L=L6 NF=NF6
I4 Bias_pel IDS=IDS5 VDS=VDS5 WF=WF5 L=L5 NF=NF5
I3 Bias_pel IDS=IDS4 VDS=VDS4 WF=WF4 L=L4 NF=NF4
I2 Bias_pel IDS=IDS3 VDS=VDS3 WF=WF3 L=L3 NF=NF3
I1 Bias_pel IDS=IDS2 VDS=VDS2 WF=WF2 L=L2 NF=NF2
I0 Bias_pel IDS=IDS1 VDS=VDS1 WF=WF1 L=L1 NF=NF1
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 \
    sensfile="../../../../Device_Characteristics/FastBias_pel/spectre/schematic/psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
